US06248739B1
N-(4-Chlorobenzyl)-6-[(3-hydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-1,4-dihydro-3-quinolinecarboxamide (0.09 gm) from Preparation No. 35 in dry NMP (2 mL) containing diisopropylethylamine (0.14 mL) is treated with 3-azetidinol hydrochloride (0.04 gm) (prepared as described in Helv. Chim. Acta 1988, 1035). The reaction mixture is stirred overnight. The reaction mixture is diluted with dichloromethane (50 mL) and washed with water (2×10 mL), brine (10 mL), dried (Na2SO4) and concentrated under reduced pressure. The residue is purified by flash column chromatography eluting with 5% to 20% methanol in dichloromethane and then by recrystallization from methanol-acetonitrile to afford 0.08 gm of the title compound as an off-white solid.

reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-1-methyl-1,4-dihydro-3-quinolinecarboxamide | 0.09 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2)CCl)C)C=C1 | C19H18Cl2N2O
reactant | diisopropylethylamine | 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-azetidinol hydrochloride | 0.04 gm | Cl.N1CC(C1)O
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(4-Chlorobenzyl)-6-[(3-hydroxy-1-azetidinyl)methyl]-1-methyl-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.08 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CC(C2)O)C)C=C1 | C22H22ClN3O3
